US06797726B1
In 2.2 mL of ethyl acetate is dissolved 0.44 g of N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N-cyclopropyl-N-methylamine, to which is added 0.60 mL of 3.5 mol/L solution of dry hydrogen chloride in ethyl acetate. The resulting mixture is stirred at ambient temperature for one hour. The reaction mixture is diluted with 5 mL of diisopropyl ether and stirred at ambient temperature for one hour. The deposited crystal is collected by filtration, washed with ethyl acetate and dried to obtain 0.31 g of N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N-cyclopropyl-N-methylamine hydrochloride.

reactant | N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N-cyclopropyl-N-methylamine | 0.44 g | S1C2=C(C=C1)C=C(C=C2)CCOCCN(C)C2CC2 | C16H21NOS
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2.2 mL | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 5 mL | C(C)(C)OC(C)C | C6H14O
product | N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N-cyclopropyl-N-methylamine hydrochloride | 0.31 g | Cl.S1C2=C(C=C1)C=C(C=C2)CCOCCN(C)C2CC2 | InChI=1S/C16H21NOS.ClH/c1-17(15-3-4-15)8-10-18-9-6-13-2-5-16-14(12-13)7-11-19-16;/h2,5,7,11-12,15H,3-4,6,8-10H2,1H3;1H
